US09062048B2
Step C: 2-((2-carbamoyl-6-(trifluoromethyl)quinolin-4-yl)amino)acetic acid
A solution of tert-butyl 2-((2-carbamoyl-6-(trifluoromethyl)quinolin-4-yl)amino)acetate (200 mg, 0.54 mmol) above step B, in DCM (5 mL) was treated with thioanisole (0.05 mL) and stirred for 10 min and then treated with trifluoroacetic acid (5 mL) dropwise. The resulting opaque solution was stirred for 2.5 h at room temperature and diluted with Et2O (200 mL). Precipitate was formed. The solid was dried under high vacuum to give the title compound.

reactant | tert-butyl 2-((2-carbamoyl-6-(trifluoromethyl)quinolin-4-yl)amino)acetate | 0.54 mmol, 200 mg | C(N)(=O)C1=NC2=CC=C(C=C2C(=C1)NCC(=O)OC(C)(C)C)C(F)(F)F | C17H18F3N3O3
reactant | thioanisole | 0.05 mL | C1(=CC=CC=C1)SC | C7H8S
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | Et2O | 200 mL | CCOCC | C4H10O
product | 2-((2-carbamoyl-6-(trifluoromethyl)quinolin-4-yl)amino)acetic acid | C(N)(=O)C1=NC2=CC=C(C=C2C(=C1)NCC(=O)O)C(F)(F)F | C13H10F3N3O3
